US08541588B2
1-(Ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
Butyl lithium (2.5 M in hexanes, 32.4 mL, 0.0811 mol) was added slowly via syringe to a solution of 1-(ethoxymethyl)-1H-pyrazole (Preparation 338, 9.3 g, 0.074 mol) in anhydrous tetrahydrofuran (100.0 mL) at 0° C. and stirred under nitrogen for 15 minutes and then at room temperature for 30 minutes. The mixture was cooled to −78° C. and 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (16.5 mL, 0.0811 mol) was added via syringe. The mixture was warmed to room temperature and stirred under nitrogen for 60 hours. Saturated aqueous ammonium chloride solution (50.0 mL) was added followed by water (150.0 mL). The mixture was poured into tert-butylmethylether (200.0 mL) and the biphasic mixture stirred vigorously for 30 minutes. The aqueous layer was acidified to pH 6 with hydrochloric acid (6.0 M aqueous solution) and extracted with tert-butylmethylether (3×200.0 mL). The combined organics were washed with saturated aqueous sodium chloride solution (100.0 mL) and then stirred with activated charcoal (1 g) for 30 minutes. Magnesium sulphate was added and the mixture filtered through a pad of Celite™, washing with tert-butylmethylether (1 L). Concentration in vacuo afforded the title compound as a brown oil, 14.5 g, 78% yield.

reactant | Butyl lithium | 0.0811 mol, 2.5 M, 32.4 mL | C(CCC)[Li]
reactant | 1-(ethoxymethyl)-1H-pyrazole | 0.074 mol, 9.3 g | C(C)OCN1N=CC=C1 | C6H10N2O
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.0811 mol, 16.5 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | ammonium chloride | 50.0 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 6.0 M | Cl | ClH
solvent | tetrahydrofuran | 100.0 mL | O1CCCC1 | C4H8O
solvent | tert-butylmethylether | 200.0 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 150.0 mL | O | H2O
product | 1-(Ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 78% yield | C(C)OCN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
